datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C1=CC=CC=C1)C>>[H]C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(CC)[O][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C)C>>CC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]C 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C[S:10][H].[H][O+:21]=[C:20]([O][H])[S]CC.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][H])([O][H])[S]CC 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)C)CC.[O-:21]CC>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C)CC 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C)C)[H])[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)[H])C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[O:20]=[C:21](OC)O[H].C[O:10][Li]>>C[O+:10]([Li])[C:21]([O-:20])(OC)O[H] 10=21;21,20=20"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C)CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)[H])CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[O-:10]C(CC)C(C)C([H])C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C([H])C(C)C(CC)[O:10]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[NH:10](C)C(C)C([H])C([H])C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C([H])C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)[OH+:10]C([H])C(O)C1O>>[OH:10]C([H])C(O)C([C:20](OC)=[OH+:21])O 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C)C>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C([H])[S]1 10=20;20,21=21"
"[O-:10]C(CC)/C([H])=C([C:20]([H])=[O:21])/[H]>>[O-:21][C:20]1([H])[O:10]C(CC)C([H])=C1[H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C(C)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(C)/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])=C(C)C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])/C(C)=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C([H])C(CC)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C([H])C(C)C(C)[O:10]1>>[O-:10]C(C)C(C)C([H])C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CCCCCC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C)C(CC)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(CC)[S]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[S]2.CC[S:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])CC)[H].[O-:21][H]>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CC)[H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[S]2.C[O:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])CC)C)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C)[H] 10=20;20,21=21"
"[H][S:10]C([H])C(C)[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
